US08076285B2
(3S)-3-Hydroxyaspartic acid is prepared by the method of G. Cardillo, L. Gentilucci, A. Tolomelli, C. Tomasini, Synlett 1999, 1727-1730, and converted in analogy to P. G. Mattingly, M. J. Miller, J. Org. Chem. 1983, 48, 3556-3559, using microwave radiation in a closed reactor into (2S,3S)-2-amino-3-hydroxy-4-methoxy-4-oxobutyric acid hydrochloride. (2S,3S)-2-Amino-3-hydroxy-4-methoxy-4-oxobutyric acid hydrochloride (447 mg, 2.24 mmol) is dissolved in DMF (9 ml). The solution is cooled to 0° C., Boc-glycin-N-hydroxysuccinimide ester (763 mg, 2.91 mmol, 1.3 equivalents), DMAP (14 mg, 0.11 mmol, 0.05 equivalents) and finally DIPEA (1170 μl, 6.72 mmol, 3 equivalents) are added. The mixture is allowed to warm slowly to room temperature and is then stirred for 2 h. The mixture is acidified with glacial acetic acid, mixed with acetonitrile and chromatographed on Sephadex LH 20 (method 45). Product-containing fractions are combined, concentrated and again chromatographed (method 46). The obtained product (761 mg, quant.) is reacted further without further purification. For analytical purposes, a pure sample is obtained by HPLC (method 44).

reactant | (2S,3S)-2-amino-3-hydroxy-4-methoxy-4-oxobutyric acid hydrochloride | Cl.N[C@H](C(=O)O)[C@@H](C(=O)OC)O
reactant | (2S,3S)-2-Amino-3-hydroxy-4-methoxy-4-oxobutyric acid hydrochloride | 2.24 mmol, 447 mg | Cl.N[C@H](C(=O)O)[C@@H](C(=O)OC)O
reactant | DIPEA | 6.72 mmol, 1170 μl, 3 equivalents | CCN(C(C)C)C(C)C | C8H19N
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | acetonitrile | C(C)#N | C2H3N
solvent | DMF | 9 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.11 mmol, 14 mg, 0.05 equivalents | CN(C)C=1C=CN=CC1 | C7H10N2
product | (3S)-3-Hydroxyaspartic acid | O[C@@H]([C@H](N)C(=O)O)C(=O)O | C4H7NO5
